US04758578
N-(1-Methoxy-2-methylpropylidene)-3-phenyl-1,2,4-thiadiazole-5-sulfonamide
A mixture of 3 g of 3-phenyl-1,2,4-thiadiazole-5-sulfonamide and and 11 ml of trimethyl orthoisobutyrate was warmed to about 90° using a oil bath. After 2.5 hours, the solution was allowed to cool to room temperature, whereupon a precipitate formed. Hexane (25 ml) was added to complete the precipitation. The solid was collected, washed with hexane and vacuum dried (P2O5) to give 3.34 g of solid, m.p. 123°-124°.

reactant | 3-phenyl-1,2,4-thiadiazole-5-sulfonamide | 3 g | C1(=CC=CC=C1)C1=NSC(=N1)S(=O)(=O)N | C8H7N3O2S2
reactant | trimethyl orthoisobutyrate | 11 ml | C(C(C)C)(OC)(OC)OC | C7H16O3
solvent | Hexane | 25 ml | CCCCCC | C6H14
product | N-(1-Methoxy-2-methylpropylidene)-3-phenyl-1,2,4-thiadiazole-5-sulfonamide | 3.34 g | COC(C(C)C)=NS(=O)(=O)C1=NC(=NS1)C1=CC=CC=C1 | C13H15N3O3S2
